US07052742B1
4-(5-Undecyl-pyrimidin-2-yl)phenyl (3-ethyl-cyclopentan-1-yl)methyl ether
A fully reacted mixture of equimolar amounts of diethyl azodicarboxylate and triphenylphosphine in THF is admixed with equimolar amounts of 4-(5-undecyl-pyrimidin-2-yl)phenol and 3-ethyl-cyclopentan-1-yl-methanol (prepared by LiAlH4 reduction of methyl 3-ethyl-cyclopentanecarboxylic acid). The mixture is stirred for 24 h at room temperature and then evaporated to dryness under reduced pressure. Purification by chromatography (silica gel, dichloromethane) and recrystallization affords the target compound.

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(5-undecyl-pyrimidin-2-yl)phenol | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C21H30N2O
reactant | 3-ethyl-cyclopentan-1-yl-methanol | C(C)C1CC(CC1)CO | C8H16O
solvent | THF | C1CCOC1 | C4H8O
product | 4-(5-Undecyl-pyrimidin-2-yl)phenyl (3-ethyl-cyclopentan-1-yl)methyl ether | C(C)C1CC(CC1)COC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCCC | C29H44N2O
